US07034039B2
A suspension of tert-butyl{4-butoxy-2-isobutyl-1-oxo-6-[(E)-2-(1,3-thiazol-4-yl)ethenyl]-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.21 g, 0.4 mmol) and 5% palladium carbon (0.2 g) in tetrahydrofuran (10 ml) was stirred under a hydrogen atmosphere at room temperature for 2 h. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl{4-butoxy-2-isobutyl-1-oxo-6-[2-(1,3-thiazol-4-yl)ethyl]-1,2-dihydro-3-isoquinolinyl}methylcarbamate (0.20 g, 95.2%) as crystals.

reactant | tert-butyl{4-butoxy-2-isobutyl-1-oxo-6-[(E)-2-(1,3-thiazol-4-yl)ethenyl]-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.4 mmol, 0.21 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)\C=C\C=1N=CSC1)=O)CC(C)C)=O | C28H37N3O4S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 0.2 g | [C].[Pd]
product | tert-butyl{4-butoxy-2-isobutyl-1-oxo-6-[2-(1,3-thiazol-4-yl)ethyl]-1,2-dihydro-3-isoquinolinyl}methylcarbamate | 0.20 g, 95.2% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)CCC=1N=CSC1)=O)CC(C)C)=O | C28H39N3O4S
